US06037342
Phosphorus pentachloride (1.37 g) was dissolved in anhydrous toluene (18 ml), the resulting solution was mixed with 2-mercapto-5-nitrobenzoxazole (900 mg) which has been obtained in the same manner as described in Reference Example 1, and the mixture was then stirred with heating at 100° C. for 3 hours. With cooling in an ice bath, to this was added dropwise N-methylpiperazine (6.09 ml). After 20 minutes of stirring, the thus obtained mixture was extracted with ethyl acetate, and the organic layer was washed with saturated sodium bicarbonate aqueous solution and saturated brine in that order. After drying with magnesium sulfate, the solvent was evaporated under a reduced pressure, and the resulting residue was purified by a silica gel column chromatography (methylene chloride:methanol=10:1) to obtain 2-(4-methyl-1-piperazinyl)-5-nitrobenzoxazole (56.1 mg) in the form of yellow crystalline powder.

reactant | Phosphorus pentachloride | 1.37 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 2-mercapto-5-nitrobenzoxazole | 900 mg | SC=1OC2=C(N1)C=C(C=C2)[N+](=O)[O-] | C7H4N2O3S
reactant | N-methylpiperazine | 6.09 ml | CN1CCNCC1 | C5H12N2
solvent | toluene | 18 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(4-methyl-1-piperazinyl)-5-nitrobenzoxazole | 56.1 mg | CN1CCN(CC1)C=1OC2=C(N1)C=C(C=C2)[N+](=O)[O-] | C12H14N4O3
